US08563541B2
Step 2: 4-bromo-3,5-dimethylpyridine
To a microwave tube was added 4-bromo-3,5-dimethylpyridine 1-oxide (2.00 g, 9.90 mmol), triphenylphosphine (3.12 g, 11.9 mmol) and toluene (10 mL). The tube was sealed and heated at 180° C. overnight. The reaction solution was diluted with ethyl acetate, and filtered. The filtrate was concentrated and purified by flash chromatography (10% to 40% ethyl acetate in hexanes) to afford the desired product as a yellow oil (700 mg, 38%). 1H NMR (400 MHz, CDCl3): δ 8.22 (s, 2H), 2.38 (s, 6H); LCMS calculated for C2H9BrN(M+H)+: m/z=186.0.

reactant | 4-bromo-3,5-dimethylpyridine 1-oxide | 9.90 mmol, 2.00 g | BrC1=C(C=[N+](C=C1C)[O-])C | C7H8BrNO
reactant | triphenylphosphine | 11.9 mmol, 3.12 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-bromo-3,5-dimethylpyridine | 700 mg, 38% | BrC1=C(C=NC=C1C)C | C7H8BrN
